US06806274B1
(E)-3-{4-[3-(2,6-dichlorophenyl)ureido]thieno[3,2-d]pyrimidin-6-yl}-N-(2-piperidinoethyl)acrylamide
Diphenylphosphoryl azide (0.085 ml) was added to a mixture of (E)-3-{4-[3-(2,6-dichlorophenyl)ureido]thieno[3,2-d]pyrimidin-6-yl)acrylic acid hydrochloride salt (0.11 g), 2-piperidinoethylamine (0.064 g), triethylamine (0.07 ml) and DMF (1.5 ml). The mixture was stirred at ambient temperature for 16 hours. The mixture was evaporated and the residue was purified by column chromatography on silica using increasingly polar mixtures of methylene chloride and methanol as eluent. The material so obtained was triturated under diethyl ether, isolated, washed with diethyl ether and dried under vacuum. There was thus obtained the title compound (0.087 g); NMR Spectrum: (DMSOd6 and CF3COOD) 1.3-1.5 (m, 1H), 1.6-1.8 (m, 4H), 1.85 (d, 2H), 2.95 (t, 2H), 3.2 (t, 2H), 3.55 (d, 2H), 3.6 (t, 2H), 6.82 (d, 1H, J=16 Hz), 7.4 (t, 1H), 7.6 (d, 1H), 7.86 (s, 1H), 7.86 (d, 1H), 8.95 (s, 1H); Mass Spectrum: M+H+ 519 and 521.

reactant | Diphenylphosphoryl azide | 0.085 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | (E)-3-{4-[3-(2,6-dichlorophenyl)ureido]thieno[3,2-d]pyrimidin-6-yl)acrylic acid hydrochloride salt | 0.11 g | Cl.ClC1=C(C(=CC=C1)Cl)NC(NC=1C2=C(N=CN1)C=C(S2)/C=C/C(=O)O)=O
reactant | 2-piperidinoethylamine | 0.064 g | N1(CCCCC1)CCN | C7H16N2
reactant | triethylamine | 0.07 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | (E)-3-{4-[3-(2,6-dichlorophenyl)ureido]thieno[3,2-d]pyrimidin-6-yl}-N-(2-piperidinoethyl)acrylamide | 0.087 g | ClC1=C(C(=CC=C1)Cl)NC(NC=1C2=C(N=CN1)C=C(S2)/C=C/C(=O)NCCN2CCCCC2)=O | C23H24Cl2N6O2S
